US04287201
To 2-chloroimidazoline bisulfate (60.0 g, 300 mmoles) in methanol (600 ml) and water (150 ml) is added with stirring 2-chloroaniline (81.1 g, 67 ml, 636 mmoles). The heterogeneous mixture is stirred at ambient temperature overnight. After 20 hours the mixture is poured into ice water, made strongly alkaline with sodium hydroxide and extracted with dichloromethane twice. The organic extracts are washed once with water and once with saturated sodium chloride solution and then extracted with 2 N acetic acid (2×1 liter). The combined acid extracts are backwashed with dichloromethane, made strongly alkaline with sodium hydroxide, and once again extracted with dichloromethane twice. The dichloromethane extracts are combined, washed with water and then sodium chloride solution and finally dried and evaporated in vacuo. The solid residue (31 g) is dissolved in hot toluene, filtered, and diluted with hexane (total volume 3 liters). Colorless crystals separate which are filtered, washed with hexane and air-dried, to give 28.2 g of 2-(2-chlorophenylimino)imidazolidine, m.p. 133°-134° C.

reactant | 2-chloroimidazoline bisulfate | 300 mmoles, 60.0 g | S(O)(O)(=O)=O.ClC=1NCCN1
reactant | 2-chloroaniline | 636 mmoles, 67 ml, 81.1 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 600 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 2-(2-chlorophenylimino)imidazolidine | 28.2 g | ClC1=C(C=CC=C1)N=C1NCCN1 | C9H10ClN3
